US04490369
(b) 1-[8,9-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3yl]-3-[N-methyl-N-(2{3,4dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 1(b) by reacting 1-(8,9-dimethoxy-1,3-dihydro-2H-3-benzazepin-2on-3yl)-3-chloro-propane with N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine.

reactant | 1-(8,9-dimethoxy-1,3-dihydro-2H-3-benzazepin-2on-3yl)-3-chloro-propane | COC=1C=CC2=C(CC(N(C=C2)CCCCl)=O)C1OC | C15H18ClNO3
reactant | N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
product | 1-[8,9-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3yl]-3-[N-methyl-N-(2{3,4dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC=1C=CC2=C(CC(N(C=C2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C1OC | InChI=1S/C26H34N2O5.ClH/c1-27(15-11-19-7-9-22(30-2)24(17-19)32-4)13-6-14-28-16-12-20-8-10-23(31-3)26(33-5)21(20)18-25(28)29;/h7-10,12,16-17H,6,11,13-15,18H2,1-5H3;1H
